US08859571B2
A solution of 4-chloro-3-nitrobenzenesulfonyl chloride (10 g, 39.1 mmol) in THF (100 mL) was cooled to −40° C. before being treated with a solution of methylamine hydrochloride (2.64 g, 39.1 mmol) in 10 ml of water followed by TEA (5.44 mL, 39.1 mmol). The reaction mixture was stirred and allowed to warm to room temperature over 1 hour before being partitioned between 350 mL EtOAc and 30 mL brine. The organic layer was washed twice with brine, dried over MgSO4 and subjected to flash chromatography (330 g silica gel, 0-40% EtOAc/hexane) to afford 4-chloro-N-methyl-3-nitrobenzenesulfonamide (6.38 g, 65%) as a light yellow solid. MS (m/z) 251.0 (M+H+).

reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 39.1 mmol, 10 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | methylamine hydrochloride | 39.1 mmol, 2.64 g | Cl.CN
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-chloro-N-methyl-3-nitrobenzenesulfonamide | 6.38 g, 65% | ClC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-] | C7H7ClN2O4S
